US07713994B2
A solution of dimethyl-[2-(4-nitro-benzenesulfonyl)-ethyl]-amine (0.39 mmol) in ethanol (15 mL) is hydrogenated for 90 minutes at atmospheric pressure over 10% Pd/C. The mixture is filtered through a pad of diatomaceous earth and concentrated under reduced pressure to give 4-(2-dimethylamino-ethanesulfonyl)-phenylamine as a white solid.

reactant | dimethyl-[2-(4-nitro-benzenesulfonyl)-ethyl]-amine | 0.39 mmol | CN(CCS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C10H14N2O4S
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 4-(2-dimethylamino-ethanesulfonyl)-phenylamine | CN(CCS(=O)(=O)C1=CC=C(C=C1)N)C | C10H16N2O2S
